US08314091B2
B: 3-((4-(3-Fluoro-4-(3-neopentylureido)benzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide
3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-y)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide (0.480 mmol, 224 mg) and 4-nitrophenylchloroformate (0.528 mmol, 108 mg) were stirred together in dichloromethane (2 mL) for 16 hours. Neopentylamine (2.4 mol, 300 μL) was added and the volatiles were removed under vacuum. The residue was purified by silica chromatography to yield the title compound (184 mg). MS (ESI) m/z 580.1 [M+H]+

reactant | 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-y)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide | 0.480 mmol, 224 mg | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC2)C=C1)F | C23H26F4N4O2
reactant | 4-nitrophenylchloroformate | 0.528 mmol, 108 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | Neopentylamine | 2.4 mol, 300 μL | C(C(C)(C)C)N | C5H13N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-((4-(3-Fluoro-4-(3-neopentylureido)benzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide | 184 mg | FC=1C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC2)C=CC1NC(=O)NCC(C)(C)C | C29H37F4N5O3
